US06852713B2
Step 4A: 2-(4-Aminomethyl-phenyl)-pent-4-enoic acid methyl ester
To a stirred solution of commercially available (Astatech) 2-[4-(tert-butoxycarbonylamino-methyl)-phenyl]-pent-4-enoic acid (2.00 g, 6.55 mmol) in methanol (30 cm3) under an atmosphere of dry nitrogen at ambient temperature was added 2M HCl in diethyl ether. The solution was stirred at ambient temperature for 20 hours and the filtrate volatile fractions removed in vacuo to afford the title compound as a white solid (1.67 g, 99.9%) with a positive ion ESI (M+H)+219.2.

reactant | 2-[4-(tert-butoxycarbonylamino-methyl)-phenyl]-pent-4-enoic acid | 6.55 mmol, 2.00 g | C(C)(C)(C)OC(=O)NCC1=CC=C(C=C1)C(C(=O)O)CC=C | C17H23NO4
reactant | HCl | 2M | Cl | ClH
reactant | methanol | 30 cm3 | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(4-Aminomethyl-phenyl)-pent-4-enoic acid methyl ester | 1.67 g, 99.9% | COC(C(CC=C)C1=CC=C(C=C1)CN)=O | C13H17NO2
